US06262068B1
1,2,3,4-Tetrahydro-6-hydroxy-1-isoquinolinecarboxylic acid methyl ester
A suspension of 1,2,3,4-tetrahydro-6-hydroxy-1-isoquinolinecarboxylic acid (5.0 g, 25.9 mmol, prepared according to W. K. Anderson, H. L. McPherson, J. S. New and A. C. Rick, Journal of Medicinal Chemistry, Vol. 27, p. 1321, 1984) in methanol (150 mL) was treated with acetyl chloride (3 mL) (reaction mixture became homogenous) and heated under reflux for 24 hours. The reaction mixture was then cooled to room temperature and concentrated in vacuo. It was diluted with ethyl acetate and washed with saturated sodium bicarbonate solution and water. After drying over anhydrous magnesium sulfate, the solvent was removed in vacuo to yield the title compound (4.0 g, 75%) as a colorless solid, mp 214-216° C.

reactant | 1,2,3,4-tetrahydro-6-hydroxy-1-isoquinolinecarboxylic acid | 25.9 mmol, 5.0 g | OC=1C=C2CCNC(C2=CC1)C(=O)O | C10H11NO3
reactant | acetyl chloride | 3 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 150 mL | CO | CH4O
product | 1,2,3,4-Tetrahydro-6-hydroxy-1-isoquinolinecarboxylic acid methyl ester | 4.0 g, 75% | COC(=O)C1NCCC2=CC(=CC=C12)O | C11H13NO3
